US05135838
The procedure of Example 2 was used except that the starting material was 4.30 mL of 2,2,2-trifluoroethanesulfonyl chloride. The crude acid was reacted with 10 g of silver carbonate giving after workup 10.63 g (99% yield) of silver tresylate.

reactant | 2,2,2-trifluoroethanesulfonyl chloride | 4.30 mL | FC(CS(=O)(=O)Cl)(F)F | C2H2ClF3O2S
reactant | silver carbonate | 10 g | C([O-])([O-])=O.[Ag+2]
product | silver tresylate | 10.63 g, 99% yield | S(=O)(=O)([O-])CC(F)(F)F.[Ag+] | InChI=1S/C2H3F3O3S.Ag/c3-2(4,5)1-9(6,7)8;/h1H2,(H,6,7,8);/q;+1/p-1
